US07125877B2
Production of methyl 4-azido-2,2-dimethylbutyrate
To a solution of 1.3 g of methyl 4-azido-2-methylbutyrate (which was prepared by the method as described in Tetrahedron, 1987, 43, 1811–1822) in 13 ml of tetrahydrofuran, 16.7 ml of 1.5N lithium diisopropylamide-cyclohexane solution was added at −78° C. in nitrogen atmosphere, followed by 30 minutes' stirring at the same temperature. To the solution 1.6 ml of iodomethane was added at −78° C., followed by 30 minutes' stirring at the same temperature. Water was added to the reaction liquid, followed by extraction with diethyl ether. The diethyl ether layer was washed with saturated brine, dried on anhydrous magnesium sulfate and the solvent was distilled off. The residue was separated and purified on silica gel column chromatography (ethyl acetate/hexane=1/30) to provide 406 mg of the title compound.

reactant | methyl 4-azido-2-methylbutyrate | 1.3 g | N(=[N+]=[N-])CCC(C(=O)OC)C | C6H11N3O2
reactant | lithium diisopropylamide cyclohexane | 1.5N, 16.7 ml | C(C)(C)[N-]C(C)C.[Li+].C1CCCCC1
reactant | iodomethane | 1.6 ml | IC | CH3I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | methyl 4-azido-2,2-dimethylbutyrate | 406 mg | N(=[N+]=[N-])CCC(C(=O)OC)(C)C | C7H13N3O2
